US07531532B2
N-(4-Fluorophenyl)-N′-{2-fluoro-4-[({[4-(piperidin-1-yl)piperidin-1-yl]carbonyl}amino)pyridin-4-yloxy]phenyl}malonamide
N-(4-Fluorophenyl)-N′-[4-(2-aminopyridin-4-yloxy)-2-fluorophenyl]malonamide (17.0 mg) was dissolved in tetrahydrofuran (1.0 ml), and then triethylamine (0.015 ml) and phenyl chloroformate (0.013 ml) were added dropwise thereto under a nitrogen atmosphere at room temperature, followed by stirring for 30 min. The reaction mixture was concentrated under a reduced pressure to give a residue, which was then dissolved in N,N-dimethylformamide (0.5 ml). 4-(Piperidin-1-yl)piperidine (80 mg) was added thereto at room temperature, followed by stirring for 23 hrs. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with water, a saturated aqueous solution of ammonium chloride and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, to which ethyl acetate (2.5 ml) was added to precipitate crystals. The crystals were filtered off and dried under aeration to provide the titled compound (10.4 mg, 41%) as white crystals.

reactant | N-(4-Fluorophenyl)-N′-[4-(2-aminopyridin-4-yloxy)-2-fluorophenyl]malonamide | 17.0 mg | FC1=CC=C(C=C1)NC(CC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)N)F)=O | C20H16F2N4O3
reactant | triethylamine | 0.015 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.013 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-(Piperidin-1-yl)piperidine | 80 mg | N1(CCCCC1)C1CCNCC1 | C10H20N2
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 2.5 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-Fluorophenyl)-N′-{2-fluoro-4-[({[4-(piperidin-1-yl)piperidin-1-yl]carbonyl}amino)pyridin-4-yloxy]phenyl}malonamide | 10.4 mg, 41% | FC1=CC=C(C=C1)NC(CC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)NC(=O)N1CCC(CC1)N1CCCCC1)F)=O | C31H34F2N6O4
